data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_51122_0,[C:1]([C:2]([C:6]([H:20])([H:21])[H:22])([O:7][O:8][H:9])[H:10])([C:3]([H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[C:5]([H:17])([H:18])[H:19]>>[C:1]([C:3]([H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])([C:5]([H:17])([H:18])[H:19])[O:7][C:2]([C:6]([H:20])([H:21])[H:22])([O:8][H:9])[H:10],55.9409974999771
MR_689109_1,[C:1]([C:6]([C:2]([H:19])([H:20])[H:21])=[C:5]([N:3]([C:4]([N:8]([H:13])[H:14])=[O:10])[N:7]([H:11])[H:12])[N:9]([H:15])[H:16])([H:17])([H:18])[H:22]>>[C:1]([C:6]([C:2]([H:19])([H:20])[H:21])([C:4]([N:8]([H:13])[H:14])=[O:10])/[C:5](=[N:3]/[N:7]([H:11])[H:12])[N:9]([H:15])[H:16])([H:17])([H:18])[H:22],47.23317999998997
MR_534170_0,[C:1]([C:2]([N:3]([H:10])[H:11])=[O:6])([C:4](=[O:7])[H:12])([O:5][H:8])[H:9]>>[C:1]([C:4]([C:2]([N:3]([H:10])[H:11])=[O:6])([O:7][H:8])[H:12])(=[O:5])[H:9],48.25726000000827
MR_634466_1,[C:1](/[C:3](=[C:2](/[C:5](=[C:6]([H:15])[H:16])[H:11])[O:7][H:8])[N:4]([H:9])[H:10])([H:12])([H:13])[H:14]>>[C:1]([C:3]1([N:4]([H:9])[H:10])[C:2]([O:7][H:8])=[C:5]([H:11])[C:6]1([H:15])[H:16])([H:12])([H:13])[H:14],41.24808500001279
MR_270467_1,[C:1]([C:3]([c:2]1[c:4]([H:8])[o:7][o:6]1)=[C:5]([H:12])[H:13])([H:9])([H:10])[H:11]>>[C:1]([C:3]([C:2]([C:4](=[O:7])[H:8])=[O:6])=[C:5]([H:12])[H:13])([H:9])([H:10])[H:11],12.690559999990398
MR_325446_0,[C:1]([N:6]1[C:2]2([O:5][H:8])[O:4][C:3]1([H:9])[O:7]2)([H:10])([H:11])[H:12]>>[C:1]([N:6]([C:2](=[O:4])[O:5][H:8])[C:3](=[O:7])[H:9])([H:10])([H:11])[H:12],0.061494999987417
MR_34467_1,[C:1](/[C:2](=[C:3](/[O:5][H:7])[H:8])[N:6]=[C:4]([H:12])[H:13])([H:9])([H:10])[H:11]>>[C:1](/[C:2](=[C:3](\[O:5][H:7])[N:6]=[C:4]([H:12])[H:13])[H:8])([H:9])([H:10])[H:11],63.780355000016726
MR_686689_0,[C:1]([N:2]([H:10])[H:11])([C:4](=[O:8])[H:14])([O:6][H:9])/[N:7]=[C:5](\[N:3]([H:12])[H:13])[H:15]>>[C:1](\[N:2]([H:10])[H:11])([O:6][H:9])=[N:7]/[C:5]([N:3]([H:12])[H:13])([C:4](=[O:8])[H:14])[H:15],68.95158249994424
MR_145233_0,[C:1]1([C:6]([O:8][H:10])=[O:9])([N:7]([H:11])[H:12])[C:2]([C:4]([H:15])([H:17])[H:18])([C:5]([H:16])([H:19])[H:20])[C:3]1([H:13])[H:14]>>[C:1]([C:2]([C:4]([H:15])([H:17])[H:18])([C:5]([H:16])([H:19])[H:20])[C:6]([O:8][H:10])=[O:9])(=[C:3]([H:13])[H:14])[N:7]([H:11])[H:12],59.69846750001409
MR_324456_0,[C:1]([C:2]([O:5][C:4]([C:3]([H:15])([H:16])[H:17])=[O:9])([H:13])[H:14])([O:6][H:10])([O:7][H:11])[O:8][H:12]>>[C:1]([C:2]([O:5][C:4]([C:3]([H:15])([H:16])[H:17])([O:8][H:12])[O:9][H:10])([H:13])[H:14])(=[O:6])[O:7][H:11],39.09827000001883
MR_539685_2,[C@:1]1([O:6][N:5]([H:13])[H:14])([H:11])[C@:2]([O:7][H:8])([H:12])[N:4]([H:10])[N:3]1[H:9]>>[C:1]1([C@@:2]([O:6][N:5]([H:13])[H:14])([O:7][H:8])[H:12])([H:11])[N:3]([H:9])[N:4]1[H:10],70.55609999999518
MR_324991_1,[C:1]1([C:2]2([H:10])[C:3]([C:6]([H:17])([H:18])[H:19])([H:11])[O:8]2)([C:5]([H:14])([H:15])[H:16])[C:4]([H:12])([H:13])[C:7]1=[O:9]>>[C:1]1([C:3]([C:2](=[O:8])[H:10])([C:6]([H:17])([H:18])[H:19])[H:11])([C:5]([H:14])([H:15])[H:16])[C:4]([H:12])([H:13])[C:7]1=[O:9],57.93832999999936
MR_349101_1,[C:1]1([H:13])([H:14])[C:3](=[O:8])[N:2]([N:5]([H:9])[H:10])[C:4]([N:6]([H:11])[H:12])=[C:7]1[H:15]>>[C:1]1([H:13])([H:14])[C:3](=[O:8])[C@:7]1(/[C:4](=[N:2]/[N:5]([H:9])[H:10])[N:6]([H:11])[H:12])[H:15],60.22431250000622
MR_346456_1,[C:1]([C:3]([N:7]([H:14])[H:15])=[O:8])([C:4]([C:2]([H:16])([H:17])[H:18])=[O:9])([N:5]([H:10])[H:11])[N:6]([H:12])[H:13]>>[C:1](=[C:3]([N:7]([H:14])[H:15])[O:8][C:4]([C:2]([H:16])([H:17])[H:18])=[O:9])([N:5]([H:10])[H:11])[N:6]([H:12])[H:13],51.380955000004604
MR_87794_0,[C:1]([N:3]([C:2]([H:13])([H:14])[H:15])[H:9])([C:4]([N:5]([H:11])[H:12])=[O:7])([O:6][H:8])[H:10]>>[C:1]([C:4]([N:3]([C:2]([H:13])([H:14])[H:15])[H:9])([N:5]([H:11])[H:12])[O:7][H:8])(=[O:6])[H:10],49.94084250000228
MR_532095_2,[C:1]1([C:3]([H:13])([H:14])[H:15])([C:6]([C:4]([H:16])([H:17])[H:18])=[C:8]([H:19])[H:20])[C:2]([N:7]([H:11])[H:12])([H:10])[N:5]1[H:9]>>[C:1](\[C:2]([C:6]([C:4]([H:16])([H:17])[H:18])=[C:8]([H:19])[H:20])([N:7]([H:11])[H:12])[H:10])([C:3]([H:13])([H:14])[H:15])=[N:5]/[H:9],44.27890999999392
MR_444313_0,[C:1](/[C:3](=[C:2](/[N:5]([H:11])[H:12])[O:6][N:4]([H:9])[H:10])[O:7][H:8])([H:13])([H:14])[H:15]>>[C:1]([C@@:3]([C@@:2]1([N:5]([H:11])[H:12])[N:4]([H:9])[O:6]1)([O:7][H:8])[H:10])([H:13])([H:14])[H:15],40.86091749999156
MR_10470_1,[C:1]([C:2]([N:5]([O:6][H:7])[H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])=[O:4]>>[C:1]([C:2]([N:5]=[O:6])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])([O:4][H:7])[H:8],54.664662500024974
MR_351243_1,[C:1]([N:2]([H:7])[H:9])([N:3]([H:8])[H:10])(/[N:4]=[N:5]/[H:11])[H:6]>>[C:1]([N:2]([H:7])[H:9])([N:3]([H:8])[H:10])(/[N:5]=[N:4]/[H:11])[H:6],45.262202500008186
MR_244140_1,[C:1](=[N:3]\[H:9])(\[N:4]([H:10])[H:11])[C:5]([O:6][C:2]([H:13])([H:14])[H:15])([O:7][H:8])[H:12]>>[C:1]([N:3]([H:8])[H:9])([N:4]([H:10])[H:11])([C:5](=[O:7])[H:12])[O:6][C:2]([H:13])([H:14])[H:15],27.92751499997223
